US04816458
9-Benzyl-1,3-dimethyl-7-(2-ethoxyethyl)-6-hydroxy-pyrimido[2,1-f]purine-2,4,8(1H,3H,9H)-trione (or tautomer)
To a stirred suspension of 7.43 g of 8-benzylaminotheophylline in 104 ml of dry N,N-dimethyl-formamide add portionwise over 10 minutes 1.19 g of a 60% dispersion of sodium hydride. Heat the mixture to 50° C. under a nitrogen atmosphere for 30 minutes. Add 13.30 g of the diethyl ester of β-ethoxyethylmalonic acid. Heat the mixture to 150° C. under a nitrogen atmosphere for approximately 37 hours. Allow the system to cool to room temperature and remove the solvent in vacuo. Add a mixture of water:chloroform (1:2.5) to the resulting semisolid. Acidify the aqueous portion with 3M HCl. Extract the product from the aqueous portion with chloroform. Wash the chloroform extracts with brine, dry over anhydrous sodium sulfate, filter and remove the solvent in vacuo to give the crude product. Triturate the crude product with ether. Purify the crude product by column chromatography on silica gel and triturate the major fraction with hexane to give the title compound, mp 156.5°-157.5° C.

reactant | 8-benzylaminotheophylline | 7.43 g | C(C1=CC=CC=C1)NC1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C14H15N5O2
reactant | sodium hydride | [H-].[Na+]
reactant | β-ethoxyethylmalonic acid | C(C)OCCC(C(=O)O)C(=O)O | C7H12O5
solvent | N,N-dimethyl-formamide | 104 ml | CN(C=O)C | C3H7NO
product | 9-Benzyl-1,3-dimethyl-7-(2-ethoxyethyl)-6-hydroxy-pyrimido[2,1-f]purine-2,4,8(1H,3H,9H)-trione | C(C1=CC=CC=C1)N1C(C(=C(N2C1=NC=1N(C(N(C(C21)=O)C)=O)C)O)CCOCC)=O | C21H23N5O5
